US05965562
c) (2R*,4S*)-N-[2-(4-Chloro-benzyl)-piperidin-4-yl]-acetamide
51.8 ml of 33% hydrogen bromide in acetic acid are added to (2R*,4S*)-4-acetylamino-2-(4-chloro-benzyl)-piperidine-1-carboxylic acid methyl ester (30.0 g, 92.3 mmol). After 16 hours, 200 ml of water are added to the mixture which is then washed twice with toluene. The aqueous phase is rendered basic and extracted twice with ethyl acetate. The organic phases are dried on potassium carbonate and concentrated by evaporation using a rotary evaporator. The title compound crystallises in the form of a hydrochloride from EtOH/ethyl acetate. M.p.: 288-289° C. TLC: methylene chloride/methanol/conc. ammonia (90:9:1) Rf =0.17, FD-MS: (M+1)+ =267.

reactant | hydrogen bromide | 51.8 ml | Br | BrH
reactant | (2R*,4S*)-4-acetylamino-2-(4-chloro-benzyl)-piperidine-1-carboxylic acid methyl ester | 92.3 mmol, 30.0 g | COC(=O)N1[C@@H](C[C@H](CC1)NC(C)=O)CC1=CC=C(C=C1)Cl | C16H21ClN2O3
reactant | water | 200 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (2R*,4S*)-N-[2-(4-Chloro-benzyl)-piperidin-4-yl]-acetamide | ClC1=CC=C(C[C@H]2NCC[C@@H](C2)NC(C)=O)C=C1 | C14H19ClN2O
